US07098203B2
Step F: 3-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-3-phenylcyclohexanone
To a solution of 1-(((3,3-ethylenedioxy-1-phenylcyclohexyl)methoxy)methyl)-3,5-bis(trifluoromethyl)benzene (990 mg, 2.09 mmol) in acetone (4 mL) at room temperature were added 1N HCl solution (3.13 mL) and the resulting mixture was stirred at reflux for 2 hr. After cooling down, saturated sodium bicarbonate and dichloromethane were added and the organic layer was separated. The aqueous layer was extracted with dichloromethane 2 times and the combined organic layers were dried over magnesium sulfate, filtered and concentrated under vacuum to give the title compound as clear pale yellow sticky oil (830 mg, 92% yield). 1H NMR (400 MHz, CDCl3) δ 1.60 (1H, m), 1.88 (1H, m), 2.19–2.24 (2H, m), 2.29–2.32 (2H, m), 2.85 (2H, dd, J=12, 68 Hz), 3.51 (2H, dd, J=12, 56 Hz), 4.52 (2H, dd, J=16, 18 Hz), 7.22–7.25 (1H, m), 7.32 (4H, d, J=4 Hz), 7.63 (2H, s), 7.77 (1H, s). HPLC purity (retention time): 90% (2.32 min, method C). MS: 453.37 (M+Na+).

reactant | 1-(((3,3-ethylenedioxy-1-phenylcyclohexyl)methoxy)methyl)-3,5-bis(trifluoromethyl)benzene | 2.09 mmol, 990 mg | C1OC2(CC(CCC2)(C2=CC=CC=C2)COCC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)OC1 | C24H24F6O3
reactant | HCl | 1N, 3.13 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | acetone | 4 mL | CC(=O)C | C3H6O
product | 3-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-3-phenylcyclohexanone | 830 mg, 92% yield | FC(C=1C=C(COCC2(CC(CCC2)=O)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C22H20F6O2
